US05635527
In the same manner as in Example 75 (2), 5-cyano-2-benzofurancarboxylic acid (1.00 g, 5.34 mmol) was converted a corresponding acid chloride and reacted with ethyl 3-(4-hydroxypiperidino)propionate (1.08 g, 5.77 mmol). The reaction mixture Was purified by silica gel column chromatography (chloroform) to give 733 mg of ethyl 3-[4-[(5-cyano-2-benzofuranyl)carbonyloxy]piperidino]propionate as a colorless solid (33%).

reactant | 5-cyano-2-benzofurancarboxylic acid | 5.34 mmol, 1.00 g | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
reactant | ethyl 3-(4-hydroxypiperidino)propionate | 5.77 mmol, 1.08 g | OC1CCN(CC1)CCC(=O)OCC | C10H19NO3
product | ethyl 3-[4-[(5-cyano-2-benzofuranyl)carbonyloxy]piperidino]propionate | 733 mg, 33% | C(#N)C=1C=CC2=C(C=C(O2)C(=O)OC2CCN(CC2)CCC(=O)OCC)C1 | C20H22N2O5
